US08710065B2
N,N-diethyl-2,3-dihydro-1H-inden-2-amine
To a solution of 1H-inden-2(3H)-one (6.00 g, 45.4 mmol) in methanol (100 ml) was added diethylamine (6.64 g, 91 mmol), sodium cyanotrihydroborate (5.71 g, 91 mmol) and acetic acid (5.45 g, 91 mmol). The reaction mixture was stirred overnight and concentrated. The residue was diluted with methylene chloride, washed with saturated aqueous NaHCO3 (2×50 mL), dried over Na2SO4, filtered, and concentrated. The resulting residue was dissolved in 1M aqueous HCl (100 ml), and extracted with methylene chloride (2×50 mL). The aqueous layer was treated with 6N aqueous NaOH solution until the pH=14 and was extracted with methylene chloride (4×100 mL). The combined organic layers were dried over Na2SO4, filtered, and concentrated to provide the title compound.

reactant | 1H-inden-2(3H)-one | 45.4 mmol, 6.00 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | diethylamine | 91 mmol, 6.64 g | C(C)NCC | C4H11N
reactant | sodium cyanotrihydroborate | 91 mmol, 5.71 g | [B-]C#N.[Na+]
reactant | acetic acid | 91 mmol, 5.45 g | C(C)(=O)O | C2H4O2
solvent | methanol | 100 ml | CO | CH4O
product | N,N-diethyl-2,3-dihydro-1H-inden-2-amine | C(C)N(C1CC2=CC=CC=C2C1)CC | C13H19N
